US08039460B2
Step B: 2-Amino-4,4,4-trifluorobutane-1-ol
Lithium aluminum hydride (1 M in ether; 2.32 mL, 2.32 mmol) was added to 1-ethoxy-4,4,4-trifluoro-1-oxobutan-2-aminium chloride (205 mg, 0.928 mmol) in ether (15 mL). After 1.5 h, the mixture was treated sequentially with water (0.085 mL), 15% sodium hydroxide (0.085 mL), water (0.255 mL), then filtered through celite and concentrated to give the title compound. MS 144.0 (M+1).

reactant | Lithium aluminum hydride | 2.32 mmol, 1 M, 2.32 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-ethoxy-4,4,4-trifluoro-1-oxobutan-2-aminium chloride | 0.928 mmol, 205 mg | [Cl-].C(C)OC(C(CC(F)(F)F)[NH3+])=O
reactant | water | 0.085 mL | O | H2O
reactant | sodium hydroxide | 0.085 mL | [OH-].[Na+]
reactant | water | 0.255 mL | O | H2O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 2-Amino-4,4,4-trifluorobutane-1-ol | NC(CO)CC(F)(F)F | C4H8F3NO
